US05498712
Manganese dioxide (45 g) was stirred in 25% H2SO4 (1300 ml) at room temperature. 2-propylphenol (90 g) was added followed by managanese dioxide (270 g), added over 1 hr to maintain a reaction temperature below 50° C. After a further 11/2 hours the reaction mixture was steam distilled, the distillates extracted with chloroform and the chloroform evaporated to yield propyl-p-benzoquinone (7 g), delta H(CDCl3) 1.00 (3H, t, J8.0Hz), CH3), 1.57(2H, tq, J 8.0,8.0Hz, CH2), 2.42(2H,t,J 8.0Hz, CH2), 6.58-6.82 (3H, m, CH).

reactant | 2-propylphenol | 90 g | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | H2SO4 | 1300 ml | OS(=O)(=O)O | H2O4S
catalyst | Manganese dioxide | 45 g | [O-2].[O-2].[Mn+4]
product | propyl-p-benzoquinone | 7 g | C(CC)C=1C(C=CC(C1)=O)=O | C9H10O2
